### PR TITLE
Dependent universal property of suspensions

### PR DESCRIPTION
**Pull request by morphismz**
This pr contains further development of the dependent universal property of suspesions. This includes:
- proof that suspensions have the dependent universal property, found in `dependent-up-suspension`
- a characterization of homotopies out of suspensions, found in `equiv-htpy-function-out-of-suspension-htpy`
- necessary lemmas for the above two

This completes one of the tasks in #702

NOTE: I will rename variables, since I wrote this before reciving the feedback on long variable names. I'll do that later today or tommorow.

### CODE REVIEW

File: src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md [hunk 1]
```diff
@@ -156,15 +156,74 @@ module _
...
+                ( meridian-suspension-structure ss x)
+                ( map-equiv
+                  ( equiv-dependent-universal-property-unit (λ x₁ → B (pr1 ss)))
+                  ( N-susp-c))
+                ( S-d-susp-str)))
+          (equiv-dependent-universal-property-unit
+            ( const unit (UU l3) (B (south-suspension-structure ss))))
+          λ S-susp-c → id-equiv))
+
+  htpy-map-inv-comparison-dependent-suspension-cocone-cocone-dependent-cocone-dependent-suspension-structure :
```
Comment (morphismz) [inline src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md:208]: I feel I should find a better name. Any ideas?

File: src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md [hunk 2]
```diff
@@ -156,15 +156,74 @@ module _
...
+    south-dependent-suspension-structure dss
+  pr2 (pr2 (dependent-cocone-dependent-suspension-structure dss)) x =
+    meridian-dependent-suspension-structure dss x
+
+  comparison-dependent-suspension-cocone :
+    ( dependent-suspension-cocone
+      ( B)
+      ( cocone-suspension-structure X Y ss)) ≃
+    ( dependent-suspension-structure B ss)
+  comparison-dependent-suspension-cocone =
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md:180]: This looks to me more like a computation than a comparison. I.e. maybe a better name is `compute-dependent-suspension-cocone`.

File: src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md (hunk 1 above)
Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md:208]: If you define the comparison equivalence to go the other direction, then the name `  htpy-comparison-dependent-suspension-cocone-dependent-suspension-structure :` should be sufficiently descriptive. If you want something even shorter, then perhaps try `htpy-comparison-dependent-suspension-cocone-suspension-structure`.

Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md:208]: Also, as commented elsewhere, I think `comparison` isn't the best word here

File: src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md (hunk 2 above)
Comment (morphismz) [reply src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md:180]: I had only named it that because it's the dependent analog of `comparison-suspension-cocone`. But I agree, I'll change both

File: src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md (hunk 1 above)
Comment (morphismz) [reply src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md:208]: Also, how do you feel about the suggestion on the discord: 

I feel like maybe these names should have some kind of brackets in them, like `[foo-bar-baz]-htpy-[qux-garply]`

https://discord.com/channels/954089080197611551/1007614717977690163/1146560210677280889

Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md:208]: Yeah, I get what you're saying. Maybe if we used two separate word separation characters, like
`htpy'comparison'dependent-suspension-cocone'dependent-suspension-structure`...

Comment (morphismz) [reply src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md:208]: yeah, just something like that so that there is a reliable way to parse it.

File: src/synthetic-homotopy-theory/suspension-structures.lagda.md [hunk 3]
```diff
@@ -131,55 +131,59 @@ cocone-suspension-structure X Y (pair N (pair S merid)) =
...
-    ( equiv-universal-property-unit Z)
-    ( λ z1 →
-      equiv-Σ
-        ( λ z2 → (x : X) → Id (z1 star) z2)
-        ( equiv-universal-property-unit Z)
-        ( λ z2 → id-equiv))
-
-map-comparison-suspension-cocone :
+  suspension-structure X Z ≃ suspension-cocone X Z
+compute-suspension-cocone X Z =
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/suspension-structures.lagda.md:137]: Hmm, now this doesn't look like a computation, but just a normal equivalence. Sorry for backtracking, but perhaps it is best to name both `equiv-...`?

File: src/synthetic-homotopy-theory/suspension-structures.lagda.md [hunk 4]
```diff
@@ -131,55 +131,59 @@ cocone-suspension-structure X Y (pair N (pair S merid)) =
...
+  inv-equiv
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/suspension-structures.lagda.md:138]: Also, when all you do is prepend an `inv-equiv`, we're inclined to record first `inv-compute-suspension-cocone` as the thing without the `inv-equiv`, and then just reference that when defining `compute-suspension-cocone`. This way, if you want to use the inverse equivalence, you don't have to deal with double inversion.
Also, I'm sure you know this already, but `map-inv-equiv (inv-equiv ...)` doesn't compute definitionally to `map-equiv`, thus it is sometimes beneficial to define things in terms of uninverted equivalence maps when one can.

File: src/synthetic-homotopy-theory/suspension-structures.lagda.md (hunk 3 above)
Comment (morphismz) [reply src/synthetic-homotopy-theory/suspension-structures.lagda.md:137]: :laughing: Will do

File: src/synthetic-homotopy-theory/suspension-structures.lagda.md (hunk 4 above)
Comment (morphismz) [reply src/synthetic-homotopy-theory/suspension-structures.lagda.md:138]: Gotcha, that makes sense. I'll do that. For this equivalence, its impotant to define it this way since its using universal properties, and one direction is much nicer. 

Since I'm no longer do the `compute` naming scheme, I could just change the direction to the original?

File: src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md [hunk 5]
```diff
@@ -156,15 +156,77 @@ module _
...
+              (x : X) →
+                ( dependent-identification
+                  ( B)
+                  ( meridian-suspension-structure ss x)
+                  ( map-equiv
+                    ( equiv-dependent-universal-property-unit
+                      ( λ x₁ → B (pr1 ss)))
+                    ( N-susp-c))
+                  ( S-d-susp-str)))
+            (equiv-dependent-universal-property-unit
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md:206]:
```suggestion
            ( equiv-dependent-universal-property-unit
```

File: src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md [hunk 6]
```diff
@@ -156,15 +156,77 @@ module _
...
+              ( const unit (UU l3) (B (south-suspension-structure ss))))
+            λ S-susp-c → id-equiv)))
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md:208]:
```suggestion
            ( λ S-susp-c → id-equiv))))
```

File: src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md [hunk 7]
```diff
@@ -156,15 +156,77 @@ module _
...
+      ( B)
+      ( cocone-suspension-structure X Y ss))
+  compute-dependent-suspension-cocone =
+    inv-equiv
+      ( equiv-Σ
+        (λ N-d-susp-str →
+          Σ (B (south-suspension-structure ss))
+            ( λ S-d-susp-str →
+              (x : X) →
+                ( dependent-identification
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md:187]:
```suggestion
              ( dependent-identification
```

File: src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md [hunk 8]
```diff
@@ -156,15 +156,77 @@ module _
...
+                  ( B)
+                  ( meridian-suspension-structure ss x)
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md:189]:
```suggestion
                ( meridian-suspension-structure ss x)
```

File: src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md [hunk 9]
```diff
@@ -156,15 +156,77 @@ module _
...
+                  ( N-d-susp-str)
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md:190]:
```suggestion
                ( N-d-susp-str)
```

File: src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md [hunk 10]
```diff
@@ -156,15 +156,77 @@ module _
...
+                  ( S-d-susp-str))))
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md:191]:
```suggestion
                ( S-d-susp-str))))
```

File: src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md [hunk 11]
```diff
@@ -156,15 +156,77 @@ module _
...
+        ( equiv-dependent-universal-property-unit
+          ( λ x → (B (north-suspension-structure ss))))
+        ( λ N-susp-c →
+          ( equiv-Σ
+            (λ S-d-susp-str →
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md:196]:
```suggestion
            ( λ S-d-susp-str →
```

File: src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md [hunk 12]
```diff
@@ -156,15 +156,77 @@ module _
...
+              (x : X) →
+                ( dependent-identification
+                  ( B)
+                  ( meridian-suspension-structure ss x)
+                  ( map-equiv
+                    ( equiv-dependent-universal-property-unit
+                      ( λ x₁ → B (pr1 ss)))
+                    ( N-susp-c))
+                  ( S-d-susp-str)))
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md:205]:
```suggestion
              ( dependent-identification
                ( B)
                ( meridian-suspension-structure ss x)
                ( map-equiv
                  ( equiv-dependent-universal-property-unit
                    ( λ x₁ → B (pr1 ss)))
                  ( N-susp-c))
                  ( S-d-susp-str)))
```

File: src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md [hunk 13]
```diff
@@ -156,15 +156,77 @@ module _
...
+        ( equiv-dependent-universal-property-unit
+          ( λ x → (B (north-suspension-structure ss))))
+        ( λ N-susp-c →
+          ( equiv-Σ
+            (λ S-d-susp-str →
+              (x : X) →
+                ( dependent-identification
+                  ( B)
+                  ( meridian-suspension-structure ss x)
+                  ( map-equiv
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md:201]: If you look at the definition of `equiv-dependent-universal-property-unit`, you'll see that its underlying map is called `ev-star`. So it's a bit heavy to use `map-equiv equiv-dependent-universal-property-unit` if you can simply use `ev-star`

File: src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md [hunk 14]
```diff
@@ -156,15 +156,77 @@ module _
...
+            (equiv-dependent-universal-property-unit
+              ( const unit (UU l3) (B (south-suspension-structure ss))))
+            λ S-susp-c → id-equiv)))
+
+  htpy-map-inv-compute-dependent-suspension-cocone-cocone-dependent-cocone-dependent-suspension-structure :
+    map-equiv compute-dependent-suspension-cocone ~
+    dependent-cocone-dependent-suspension-structure
+  htpy-map-inv-compute-dependent-suspension-cocone-cocone-dependent-cocone-dependent-suspension-structure
+    ( dss) =
+      map-inv-equiv
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md:215]: I think you can simply use `is-injective-map-equiv` here

File: src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md [hunk 15]
```diff
@@ -184,14 +246,49 @@ module _
...
+  {l1 l2 l3 : Level} {X : UU l1} {Y : UU l2} (B : Y → UU l3)
+  {susp-str : suspension-structure X Y}
+  {d-susp-str0 d-susp-str1 : dependent-suspension-structure B susp-str}
+  where
+
+  north-htpy-dependent-suspension-structure :
+    htpy-dependent-suspension-structure B d-susp-str0 d-susp-str1 →
+        ( north-dependent-suspension-structure d-susp-str0
+    ＝
+      north-dependent-suspension-structure d-susp-str1)
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md:259]:
```suggestion
    north-dependent-suspension-structure d-susp-str0 ＝
    north-dependent-suspension-structure d-susp-str1
```

File: src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md [hunk 16]
```diff
@@ -184,14 +246,49 @@ module _
...
+  north-htpy-dependent-suspension-structure = pr1
+
+  south-htpy-dependent-suspension-structure :
+    htpy-dependent-suspension-structure B d-susp-str0 d-susp-str1 →
+      ( south-dependent-suspension-structure d-susp-str0
+        ＝
+      south-dependent-suspension-structure d-susp-str1)
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md:266]:
```suggestion
    south-dependent-suspension-structure d-susp-str0 ＝
    south-dependent-suspension-structure d-susp-str1
```

**Comment by morphismz** [comment]
Sorry for leaving this pr hanging around for so long... Anyways, I think I've made all necessary edits, incuding changing variable names.

File: src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md [hunk 17]
```diff
@@ -113,105 +114,196 @@ module _
...
+  htpy-map-inv-equiv-dependent-suspension-structure-suspension-cocone-cocone-dependent-cocone-dependent-suspension-structure :
+    map-inv-equiv equiv-dependent-suspension-structure-suspension-cocone ~
+    dependent-cocone-dependent-suspension-structure
+  htpy-map-inv-equiv-dependent-suspension-structure-suspension-cocone-cocone-dependent-cocone-dependent-suspension-structure
+    ( dc) =
+      is-injective-map-equiv
+        ( equiv-dependent-suspension-structure-suspension-cocone)
+        ( is-section-map-inv-equiv
+          ( equiv-dependent-suspension-structure-suspension-cocone)
+          ( dc))
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md:219]:
```suggestion
    is-injective-map-equiv
      ( equiv-dependent-suspension-structure-suspension-cocone)
      ( is-section-map-inv-equiv
        ( equiv-dependent-suspension-structure-suspension-cocone)
        ( dc))
```

File: src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md [hunk 18]
```diff
@@ -113,105 +114,196 @@ module _
...
+
+  meridian-htpy-dependent-suspension-structure :
+    ( d-susp-str : 
+      htpy-dependent-suspension-structure B d-susp-str0 d-susp-str1) →
+    ( x : X) →
+    coherence-square-identifications
+      ( meridian-dependent-suspension-structure d-susp-str0 x)
+      ( south-htpy-dependent-suspension-structure d-susp-str)
+      ( ap
+        ( tr B (meridian-suspension-structure susp-str x))
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md:274]: Isn't `ap tr` defined to be `tr²`?:)

File: src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md [hunk 19]
```diff
@@ -113,105 +114,196 @@ module _
...
-        Σ (south-dependent-suspension-structure d-ss ＝ S)
+        Σ (south-dependent-suspension-structure d ＝ S)
           ( λ S-htpy →
             (x : X) →
             coherence-square-identifications
-              ( meridian-dependent-suspension-structure d-ss x)
+              ( meridian-dependent-suspension-structure d x)
               ( S-htpy)
-              ( ap (tr B (meridian-suspension-structure ss x)) N-htpy)
+              ( ap (tr B (meridian-suspension-structure c x)) N-htpy)
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md:298]: `tr²`

File: src/synthetic-homotopy-theory/dependent-universal-property-suspensions.lagda.md [hunk 20]
```diff
@@ -57,22 +57,42 @@ This is the dependent analog of the
...
+
+#### Coherence between `dependent-ev-suspension` and
+
+`dependent-cocone-map`
+
+```agda
+triangle-dependent-ev-suspension :
+    {l1 l2 l3 : Level} {X : UU l1} {Y : UU l2}
+    (s : suspension-structure X Y) →
+    (B : Y → UU l3) →
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/dependent-universal-property-suspensions.lagda.md:88]:
```suggestion
  {l1 l2 l3 : Level} {X : UU l1} {Y : UU l2}
  (s : suspension-structure X Y) →
  (B : Y → UU l3) →
```

File: src/synthetic-homotopy-theory/pushouts.lagda.md [hunk 21]
```diff
@@ -143,6 +145,22 @@ is-pushout f g c = is-equiv (cogap f g c)
...
 ## Properties
 
+### The pushout of a span has the dependent universal property
+
+```agda
+dependent-up-pushout :
+  {l1 l2 l3 l4 : Level} {S : UU l1} {A : UU l2} {B : UU l3}
+  (f : S → A) (g : S → B) →
+  dependent-universal-property-pushout l4 f g (cocone-pushout f g)
+dependent-up-pushout {l4 = l4} f g =
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/pushouts.lagda.md:155]: One way to avoid variable declarations like `{l4 = l4}` is to declare those variables in an anynymous module. This will also make the specification of `dependent-up-pushout` look cleaner.

Comment (EgbertRijke) [reply src/synthetic-homotopy-theory/pushouts.lagda.md:155]: I noticed that you can do this in a few other spots too.

File: src/synthetic-homotopy-theory/suspension-structures.lagda.md [hunk 22]
```diff
@@ -131,55 +132,57 @@ cocone-suspension-structure X Y (pair N (pair S merid)) =
...
       ( merid))
 
-comparison-suspension-cocone :
+equiv-suspension-structure-suspension-cocone :
   {l1 l2 : Level} (X : UU l1) (Z : UU l2) →
   suspension-cocone X Z ≃ suspension-structure X Z
-comparison-suspension-cocone X Z =
-  equiv-Σ
+equiv-suspension-structure-suspension-cocone X Z =
+  ( equiv-Σ
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/suspension-structures.lagda.md:139]: I'm not sure what the purpose of these outer parentheses are. Entire definitions should not be wrapped in parentheses.

File: src/synthetic-homotopy-theory/suspension-structures.lagda.md [hunk 23]
```diff
@@ -131,55 +132,57 @@ cocone-suspension-structure X Y (pair N (pair S merid)) =
...
-      ( htpy-map-inv-comparison-suspension-cocone-cocone-suspension-structure
-        ( X)
-        ( Z)))
-    ( is-equiv-map-inv-equiv (comparison-suspension-cocone X Z))
+  ( s) =
+    is-injective-map-equiv
+      ( equiv-suspension-structure-suspension-cocone X Z)
+      ( ( is-section-map-inv-equiv
+        ( equiv-suspension-structure-suspension-cocone X Z)
+        ( s)))
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/suspension-structures.lagda.md:185]:
```suggestion
  is-injective-map-equiv
    ( equiv-suspension-structure-suspension-cocone X Z)
    ( is-section-map-inv-equiv
      ( equiv-suspension-structure-suspension-cocone X Z)
      ( s))
```

Here the indentation level was too high, but also `is-section-map-inv-equiv` was needlessly wrapped in a double set of parentheses

File: src/synthetic-homotopy-theory/suspensions-of-types.lagda.md [hunk 24]
```diff
@@ -154,7 +157,8 @@ module _
     {l : Level} (Z : UU l) (c : suspension-structure X Z) (x : X) →
     ( ( ap (map-inv-up-suspension Z c) (meridian-suspension x)) ∙
       ( up-suspension-south-suspension Z c)) ＝
-    ( ( up-suspension-north-suspension Z c) ∙ ( pr2 (pr2 c)) x)
+    ( ( up-suspension-north-suspension Z c) ∙
+    ( meridian-suspension-structure c) x)
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/suspensions-of-types.lagda.md:161]:
```suggestion
    ( up-suspension-north-suspension Z c) ∙
    ( meridian-suspension-structure c x)
```

Doesn't this work?

File: src/synthetic-homotopy-theory/suspensions-of-types.lagda.md [hunk 25]
```diff
@@ -173,6 +177,219 @@ module _
...
+    (l : Level) {l1 : Level} {X : UU l1} →
+    dependent-universal-property-suspension
+      ( l)
+      ( suspension-structure-suspension X)
+dependent-up-suspension l {X = X} B =
+  is-equiv-htpy
+    ( ( map-equiv
+      ( equiv-dependent-suspension-structure-suspension-cocone
+        ( suspension-structure-suspension X)
+        ( B))) ∘
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/suspensions-of-types.lagda.md:193]:
```suggestion
    ( map-equiv
      ( equiv-dependent-suspension-structure-suspension-cocone
        ( suspension-structure-suspension X)
        ( B)) ∘
```

`map-equiv` doesn't need to be wrapped in double parentheses.

File: src/synthetic-homotopy-theory/suspensions-of-types.lagda.md [hunk 26]
```diff
@@ -173,6 +177,219 @@ module _
...
+          ( suspension-structure-suspension X))
+        ( B)))
+    ( inv-htpy
+      ( triangle-dependent-ev-suspension
+        ( suspension-structure-suspension X)
+        ( B)))
+    ( is-equiv-comp
+      ( map-equiv
+        ( equiv-dependent-suspension-structure-suspension-cocone
+          ( suspension-structure-suspension X) B))
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/suspensions-of-types.lagda.md:209]:
```suggestion
          ( suspension-structure-suspension X)
          ( B)))
```

If line breaks are needed, each argument goes on a new line.

File: src/synthetic-homotopy-theory/suspensions-of-types.lagda.md [hunk 27]
```diff
@@ -173,6 +177,219 @@ module _
...
+      ( dependent-cocone-map
+        ( const X unit star)
+        ( const X unit star)
+        ( cocone-suspension-structure X (suspension X)
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/suspensions-of-types.lagda.md:213]:
```suggestion
        ( cocone-suspension-structure X
          ( suspension X)
```

Line break for argument. Note that it is ok to have the first (few) single character arguments before the line break, but if they get longer and we need line breaks at some point, we start the line breaks with the first of the longer arguments.

File: src/synthetic-homotopy-theory/suspensions-of-types.lagda.md [hunk 28]
```diff
@@ -173,6 +177,219 @@ module _
...
+    (d : dependent-suspension-structure
+      ( B)
+      ( suspension-structure-suspension X))
+    (x : X) →
+      coherence-square-identifications
+        ( apd
+          ( map-inv-dependent-up-suspension d)
+          ( meridian-suspension x))
+        ( dependent-up-suspension-south-suspension d)
+        ( ap
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/suspensions-of-types.lagda.md:289]: `tr²`

File: src/synthetic-homotopy-theory/suspensions-of-types.lagda.md [hunk 29]
```diff
@@ -173,6 +177,219 @@ module _
...
+          ( tr B (meridian-suspension x))
+          ( dependent-up-suspension-north-suspension d))
+        (meridian-dependent-suspension-structure d x)
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/suspensions-of-types.lagda.md:292]:
```suggestion
        ( meridian-dependent-suspension-structure d x)
```

File: src/synthetic-homotopy-theory/suspensions-of-types.lagda.md [hunk 30]
```diff
@@ -173,6 +177,219 @@ module _
...
+      ( B)
+      ( suspension-structure-suspension X)) →
+    ( map-inv-dependent-up-suspension d south-suspension) ＝
+    ( south-dependent-suspension-structure d)
+  dependent-up-suspension-south-suspension d =
+    south-htpy-dependent-suspension-structure
+    ( B)
+    ( htpy-eq-dependent-suspension-structure
+      ( B)
+      ( is-section-map-inv-dependent-up-suspension d))
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/suspensions-of-types.lagda.md:277]:
```suggestion
    south-htpy-dependent-suspension-structure
      ( B)
      ( htpy-eq-dependent-suspension-structure
        ( B)
        ( is-section-map-inv-dependent-up-suspension d))
```

The arguments of a function should receive a new indentation level.

File: src/synthetic-homotopy-theory/suspensions-of-types.lagda.md [hunk 31]
```diff
@@ -173,6 +177,219 @@ module _
...
+      ( B)
+      ( suspension-structure-suspension X)) →
+      ( map-inv-dependent-up-suspension d north-suspension) ＝
+      ( north-dependent-suspension-structure d)
+  dependent-up-suspension-north-suspension d =
+    north-htpy-dependent-suspension-structure
+    ( B)
+    ( htpy-eq-dependent-suspension-structure
+      ( B)
+      ( is-section-map-inv-dependent-up-suspension d))
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/suspensions-of-types.lagda.md:264]:
```suggestion
    north-htpy-dependent-suspension-structure
      ( B)
      ( htpy-eq-dependent-suspension-structure
        ( B)
        ( is-section-map-inv-dependent-up-suspension d))
```

The arguments of a function should receive a new indentation level

File: src/synthetic-homotopy-theory/suspensions-of-types.lagda.md [hunk 32]
```diff
@@ -173,6 +177,219 @@ module _
...
+  htpy-function-out-of-suspension =
+    (Σ (f (north-suspension) ＝ g (north-suspension))
+      ( λ p → Σ (f (south-suspension) ＝ g (south-suspension))
+        ( λ q →
+          (x : X) →
+            ( coherence-square-identifications
+              ( ap f (meridian-suspension x))
+              ( q)
+              ( p)
+              ( ap g (meridian-suspension x))))))
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/suspensions-of-types.lagda.md:323]:
```suggestion
    Σ ( f (north-suspension) ＝ g (north-suspension))
      ( λ p →
        Σ ( f (south-suspension) ＝ g (south-suspension))
          ( λ q →
            (x : X) →
            coherence-square-identifications
              ( ap f (meridian-suspension x))
              ( q)
              ( p)
              ( ap g (meridian-suspension x))))
```

1. Entire definitions should not be wrapped in parentheses
2. If lambda expressions need line breaks, we make that line break immediately after the arrow
3. `coherence-square-identifications` didn't need to be wrapped in parentheses

File: src/synthetic-homotopy-theory/suspensions-of-types.lagda.md [hunk 33]
```diff
@@ -173,6 +177,219 @@ module _
...
+  south-htpy-function-out-of-suspension = pr1 ∘ pr2
+
+  meridian-htpy-function-out-of-suspension :
+    (h : htpy-function-out-of-suspension) →
+    (x : X) →
+            ( coherence-square-identifications
+              ( ap f (meridian-suspension x))
+              ( south-htpy-function-out-of-suspension h)
+              ( north-htpy-function-out-of-suspension h)
+              ( ap g (meridian-suspension x)))
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/suspensions-of-types.lagda.md:342]:
```suggestion
    (x : X) →
    coherence-square-identifications
      ( ap f (meridian-suspension x))
      ( south-htpy-function-out-of-suspension h)
      ( north-htpy-function-out-of-suspension h)
      ( ap g (meridian-suspension x))
```

We don't deeply indent code in agda-unimath. The set of parentheses around `coherence-square-identifications` had no purpose.

File: src/synthetic-homotopy-theory/suspensions-of-types.lagda.md [hunk 34]
```diff
@@ -173,6 +177,219 @@ module _
...
+                          ( id-equiv)
+                          ( λ x →
+                            ( inv-equiv
+                              ( compute-dependent-identification-eq-value-function
+                                ( f)
+                                ( g)
+                                ( meridian-suspension-structure
+                                  ( suspension-structure-suspension X) x)
+                                ( p)
+                                ( q))))))
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/suspensions-of-types.lagda.md:375]:
```suggestion
  equiv-htpy-function-out-of-suspension-htpy :
    (f ~ g) ≃ htpy-function-out-of-suspension
  equiv-htpy-function-out-of-suspension-htpy =
    equivalence-reasoning
      (f ~ g)
      ≃ dependent-suspension-structure
          ( eq-value f g)
          ( suspension-structure-suspension X)
        by equiv-dependent-up-suspension (eq-value f g)
      ≃ htpy-function-out-of-suspension
        by
        equiv-tot
          ( λ p →
            equiv-tot
              ( λ q →
                equiv-Π
                  ( λ x →
                    coherence-square-identifications
                      ( ap f (meridian-suspension x))
                      ( q)
                      ( p)
                      ( ap g (meridian-suspension x)))
                  ( id-equiv)
                  ( λ x →
                    inv-equiv
                      ( compute-dependent-identification-eq-value-function
                        ( f)
                        ( g)
                        ( meridian-suspension-structure
                          ( suspension-structure-suspension X)
                          ( x))
                        ( p)
                        ( q)))))
```

In equivalence/equational reasoning, the equivalence symbols are align to the left. If after `by` a line break is needed, do the line break immediately after `by`. Then format the code for the equivalence as usual. You again had some things wrapped in parentheses for no purpose:) This makes it harder to see the tree-structure of the definition, which is how I spot it, so try to pay attention to it:)

**Comment by EgbertRijke** [comment]
Your code is starting to look very good!

File: src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md (hunk 18 above)
Comment (morphismz) [reply src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md:274]: ah, `tr^2` is `\lambda b . ap (\lambda p . tr B p b)`, which is slightly different than what we have here. Should I format this differently to make that more salient?

File: src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md (hunk 19 above)
Comment (morphismz) [reply src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md:298]: I think this is the same as the above comment.

File: src/synthetic-homotopy-theory/pushouts.lagda.md (hunk 21 above)
Comment (morphismz) [reply src/synthetic-homotopy-theory/pushouts.lagda.md:155]: ah, cool. I didn't know what anonymous modules were! I'll check that out and impliment them in this pr, and use them in future ones

File: src/synthetic-homotopy-theory/suspension-structures.lagda.md (hunk 22 above)
Comment (morphismz) [reply src/synthetic-homotopy-theory/suspension-structures.lagda.md:139]: oops, left over from when this whole thing was an argument for `inv-equiv`.

File: src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md [hunk 35]
```diff
@@ -113,105 +114,196 @@ module _
...
+    meridian-dependent-suspension-structure dc x
+
+  equiv-dependent-suspension-structure-suspension-cocone :
+    ( dependent-suspension-cocone
+      ( B)
+      ( cocone-suspension-structure X Y c)) ≃
+    ( dependent-suspension-structure B c)
+  equiv-dependent-suspension-structure-suspension-cocone =
+    ( equiv-Σ
+      (λ n →
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md:183]:
```suggestion
      ( λ n →
```

File: src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md [hunk 36]
```diff
@@ -113,105 +114,196 @@ module _
...
+        Σ (B (south-suspension-structure c))
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md:184]:
```suggestion
        Σ ( B (south-suspension-structure c))
```

File: src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md [hunk 37]
```diff
@@ -113,105 +114,196 @@ module _
...
+          ( λ s →
+            (x : X) →
+            ( dependent-identification
+              ( B)
+              ( meridian-suspension-structure c x)
+              ( n)
+              ( s))))
+      ( equiv-dependent-universal-property-unit
+        ( λ x → (B (north-suspension-structure c))))
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md:193]:
```suggestion
        ( λ x → B (north-suspension-structure c)))
```

File: src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md [hunk 38]
```diff
@@ -113,105 +114,196 @@ module _
...
+      ( λ N-susp-c →
+        ( equiv-Σ
+          ( λ s →
+            (x : X) →
+            ( dependent-identification
+              ( B)
+              ( meridian-suspension-structure c x)
+              ( map-equiv
+                ( equiv-dependent-universal-property-unit
+                  ( λ x₁ → B (north-suspension-structure c)))
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md:203]:
```suggestion
                  ( λ _ → B (north-suspension-structure c)))
```

File: src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md (hunk 18 above)
Comment (EgbertRijke) [reply src/synthetic-homotopy-theory/dependent-suspension-structures.lagda.md:274]: You are completely right! No need to change anything.

File: src/synthetic-homotopy-theory/dependent-universal-property-suspensions.lagda.md [hunk 39]
```diff
@@ -57,22 +57,45 @@ This is the dependent analog of the
...
+`dependent-cocone-map`
+
+```agda
+module _
+  {l1 l2 l3 : Level} {X : UU l1} {Y : UU l2}
+  where
+
+  triangle-dependent-ev-suspension :
+      (s : suspension-structure X Y) →
+      (B : Y → UU l3) →
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/dependent-universal-property-suspensions.lagda.md:91]:
```suggestion
    (s : suspension-structure X Y) →
    (B : Y → UU l3) →
```
